US08492401B2
A solution of ethyl 5-methyl-2-phenyloxazole-4-carboxylate (11.0 g, 48 mmol), NBS (8.5 g, 48 mmol), and BPO (100 mg) in CCl4 (200 ml) was heated at reflux for 16 h. The reaction mixture was concentrated in vacuo and purified by flash chromatography to give ethyl 5-(bromomethyl)-2-phenyloxazole-4-carboxylate as a tan solid (5.2 g, 35% yield).

reactant | ethyl 5-methyl-2-phenyloxazole-4-carboxylate | 48 mmol, 11.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)C(=O)OCC | C13H13NO3
reactant | NBS | 48 mmol, 8.5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 5-(bromomethyl)-2-phenyloxazole-4-carboxylate | 5.2 g, 35% yield | BrCC1=C(N=C(O1)C1=CC=CC=C1)C(=O)OCC | C13H12BrNO3
